US09029545B2
4-Amino-2-bromo-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylic acid
To a solution of ethyl 4-amino-2-bromo-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylate (Description 31) (857 mg, 2.60 mmol) in ethanol (25 mL) was added aqueous NaOH (2M) (2.60 mL, 5.21 mmol) and reaction mixture stirred at 100° C. for 4 h. The mixture was then cooled to RT before the solvent was removed in vacuo. The residue was then taken-up in water (20 mL) before acidifying with aqueous HCl (2M) (2 mL) to form a precipitate. The mixture was then subjected to a centrifuge and the aqueous solution was then decanted off and the solid residue dried under vacuum, to afford the title compound (720 mg). LCMS (A) m/z: 301/303 [M+1]+, Rt 0.67 min (acidic).

reactant | ethyl 4-amino-2-bromo-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylate | 2.60 mmol, 857 mg | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C)Br | C12H13BrN2O2S
reactant | NaOH | 5.21 mmol, 2M, 2.60 mL | [OH-].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 4-Amino-2-bromo-3,6-dimethylthieno[2,3-b]pyridine-5-carboxylic acid | 720 mg | NC1=C2C(=NC(=C1C(=O)O)C)SC(=C2C)Br | C10H9BrN2O2S
